US05436247
Oily sodium hydride (60%, 0.323 g) was added to a solution of 2-ethylimidazole (0.776 g) in N,N-dimethylformamide (30 ml), followed by stirring at room temperature for 15 minutes. Then 2-chloromethyl-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylic acid ethyl ester (3.0 g) was added. After stirring at 80° C. for 1 hour, the reaction mixture was poured over water, and the separating crystal was collected by filtration, which was then recrystallized from ethanol to yield 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-(2-ethylimidazol-1-ylmethyl)quinoline-3-carboxylic acid ethyl ester (2.5 g, 74%) as a colorless prismatic crystal having a melting point of 163° to 164° C.

reactant | sodium hydride | 0.323 g | [H-].[Na+]
reactant | 2-ethylimidazole | 0.776 g | C(C)C=1NC=CN1 | C5H8N2
reactant | 2-chloromethyl-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylic acid ethyl ester | 3.0 g | C(C)OC(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CCl | C23H24ClNO6
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-(2-ethylimidazol-1-ylmethyl)quinoline-3-carboxylic acid ethyl ester | 2.5 g, 74% | C(C)OC(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CN1C(=NC=C1)CC | C28H31N3O6
